US06613743B2
A vigorously stirred solution of 2-isopropoxy-1H-isoindole-1,3(2H)-dione [2.50 g, 12.2 mmol, Synth. Comm., 22(10), 1427-1432 (1992)] in 35 mL of tetrahydrofuran under an Argon atmosphere at ambient temperature was treated with anhydrous hydrazine (0.421 mL, 13.41 mmol). After 1.5 hours, 4-methoxybenzenesulphonyl chloride (3.024 g, 14.63 mmol), dichloromethane (20 mL) and N,N-diisopropylethylamine (6.38 mL, 36.6 mmol) was added with continued stirring. After an additional 2 hours at ambient temperature, the reaction mixture was evaporated in vacuo to a residue and partitioned between ethyl acetate and 1N hydrochloric acid. The layers were separated and the aqueous layer was extracted again with ethyl acetate. The combined organic layers were washed with 5% w/v potassium carbonate and brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to a residue. The crude material was purified on flash grade silica gel eluting with 30% ethyl acetate in hexane. Fractions containing the product were combined, evaporated in vacuo, and dried under high vacuum to provide N-(isopropoxy)-4-methoxy-1-benzenesulfonamide (2.061 g, 69%) as a white solid. H1-NMR (chloroform-D3): 1.22 (d, 6H), 3.92 (s, 3H), 4.27 (m, 1H), 6.70 (s, 1H), 7.05 (d, 2H), 7.90 (d, 2H). MS(ESI): 268 (M+Na).

reactant | 2-isopropoxy-1H-isoindole-1,3(2H)-dione | 12.2 mmol, 2.50 g | C(C)(C)ON1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
reactant | hydrazine | 13.41 mmol, 0.421 mL | NN | H4N2
reactant | 4-methoxybenzenesulphonyl chloride | 14.63 mmol, 3.024 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | N,N-diisopropylethylamine | 36.6 mmol, 6.38 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(isopropoxy)-4-methoxy-1-benzenesulfonamide | 2.061 g, 69% | C(C)(C)ONS(=O)(=O)C1=CC=C(C=C1)OC | C10H15NO4S
